US07582773B2
Step 2: Synthesis of 1,3-Dibenzyl-5-bromo-2-methyl-1H-indole.
The desired product was prepared using a procedure similar to step 2 of example 3. Thus, 3-benzyl-5-bromo-2-methyl-1H-indole (1.651 g, 5.5 mmol) was reacted with k-t-butoxide (0.648 g, 5.775 mmol) and benzyl bromide (0.991 g, 5.775 mmol) in DMF (20 ml) to give the product (1.842 g, 4.719 mmol, 86%) as a viscous brown oil. 1H NMR (DMSO-d6) δ 2.33 (s, 3H), 4.03 (s, 2H), 5.42 (s, 2H), 6.95 (d, J=7.3 Hz, 2H), 7.10-7.14 (m, 2H), 7.18-7.29 (m, 7H), 7.34 (d, J=8.7 Hz, 1H), 7.53 (d, J=1.8 Hz, 1H); [ESI(+)], m/z 390/392 (M+H)+.

reactant | 3-benzyl-5-bromo-2-methyl-1H-indole | 5.5 mmol, 1.651 g | C(C1=CC=CC=C1)C1=C(NC2=CC=C(C=C12)Br)C | C16H14BrN
reactant | benzyl bromide | 5.775 mmol, 0.991 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,3-Dibenzyl-5-bromo-2-methyl-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Br)CC1=CC=CC=C1)C | C23H20BrN
